US07645756B2
Production of 6-(4-hydroxyphenyl)-N-methyl[1,2,4]triazolo[4,3-b]pyridazine-3-carboxamide
Methylamine/methanol solution (3 ml) was added to a methanol solution of 307 mg (0.97 mmol) of ethyl 6-(4-methoxyphenyl)[1,2,4]triazolo[4,3-b]pyridazine-3-carboxylate, and stirred at room temperature for 14 hours. The reaction liquid was concentrated under reduced pressure, and 2 ml (2.00 mol) of a dichloromethane solution of 1 M boron tribromide was added to a chloroform solution (4 ml) of the resulting residue, and stirred overnight at room temperature. Water was added to the reaction liquid, extracted with chloroform, and the organic layer was washed with saturated saline water. This was dried with anhydrous sodium sulfate, and concentrated under reduced pressure to obtain 65 mg of a crude product of 6-(4-hydroxyphenyl)-N-methyl[1,2,4]triazolo[4,3-b]pyridazine-3-carboxamide.

reactant | Methylamine methanol | 3 ml | CN.CO
reactant | ethyl 6-(4-methoxyphenyl)[1,2,4]triazolo[4,3-b]pyridazine-3-carboxylate | 0.97 mmol, 307 mg | COC1=CC=C(C=C1)C=1C=CC=2N(N1)C(=NN2)C(=O)OCC | C15H14N4O3
reactant | dichloromethane | 2.00 mol, 2 ml | ClCCl | CH2Cl2
reactant | boron tribromide | 1 M | B(Br)(Br)Br | BBr3
solvent | Water | O | H2O
solvent | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | CO | CH4O
product | 6-(4-hydroxyphenyl)-N-methyl[1,2,4]triazolo[4,3-b]pyridazine-3-carboxamide | 65 mg | OC1=CC=C(C=C1)C=1C=CC=2N(N1)C(=NN2)C(=O)NC | C13H11N5O2
